US09403798B2
[3-(Trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate
A tetrahydrofuran solution (50 mL) of [3-(trifluoromethyl)-1H-pyrazol-1-yl]methanol (6.23 g, 37.5 mmol), p-toluenesulfonic acid anhydride (14.7 g, 45.0 mmol), and triethylamine (7.84 mL, 56.2 mmol) was stirred at room temperature for 19 hours. After completion of the reaction, water was added to the reaction solution and extraction with ethyl acetate from the resultant mixture was performed three times. The obtained organic layer was washed with a saturated sodium bicarbonate aqueous solution and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain a crude product (12.8 g) of the title compound.

reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | [3-(trifluoromethyl)-1H-pyrazol-1-yl]methanol | 37.5 mmol, 6.23 g | FC(C1=NN(C=C1)CO)(F)F | C5H5F3N2O
reactant | p-toluenesulfonic acid anhydride | 45.0 mmol, 14.7 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | triethylamine | 56.2 mmol, 7.84 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [3-(Trifluoromethyl)-1H-pyrazol-1-yl]methyl 4-methylbenzenesulfonate | 12.8 g | CC1=CC=C(C=C1)S(=O)(=O)OCN1N=C(C=C1)C(F)(F)F | C12H11F3N2O3S
